US05278191
EXAMPLE I 2-[(4-Chlorophenyl)phenyl]methylaminoacetamide [Compound #1]
A reaction vessel was charged with 7.62 g (30 mmole) of [(4-chlorophenyl)phenyl]methylamine dissolved in 150 ml of absolute ethanol. A mixture of 2.34 g (25 mmole) of chloracetamide and 5.46 g (5 mmole) of sodium bicarbonate was added to the vessel and the resulting suspension was brought to reflux and held at reflux for 2 days. The solution was then cooled, filtered and evaporated under reduced pressure. The residue was dissolved in water and extracted with dichloromethane. The organic phase was dried over magnesium sulfate and evaporated under reduced pressure. The oily residue was solidified in pentane and crystallized in toluene.

reactant | [(4-chlorophenyl)phenyl]methylamine | 30 mmole, 7.62 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN | C13H12ClN
reactant | chloracetamide | 25 mmole, 2.34 g | ClCC(=O)N | C2H4ClNO
reactant | sodium bicarbonate | 5 mmole, 5.46 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-[(4-Chlorophenyl)phenyl]methylaminoacetamide | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CNCC(=O)N | C15H15ClN2O
